US04461724
160 ml of TFA was added to 86 g of Boc-His(Tos)-Lys(Z)-OBzl dissolved in 100 ml of ethylene chloride under cooling with ice, and the mixture was stirred at the same temperature for 30 minutes and at room temperature for an hour. The solvent and TFA were distilled off, chloroform was added to the residue, and neutralization was carried out with aqueous potassium carbonate. After the reaction mixture was washed with saturated saline, passed through silica gel and sodium sulfate anhydride columns, the solvent was distilled off. Then, methanol was added to precipitate crystals, which were filtered out and dried to obtain 61.2 g of His(Tos)-Lys(Z)-OBzl. (By this process, the product is obtained in the crystallized form).

reactant | TFA | 160 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Boc-His(Tos)-Lys(Z)-OBzl | 86 g | N([C@@H](CC1=CN(C=N1)S(=O)(=O)C1=CC=C(C)C=C1)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C39H47N5O9S
solvent | ethylene chloride | 100 ml | C(CCl)Cl | C2H4Cl2
product | His(Tos)-Lys(Z)-OBzl | 61.2 g | N[C@@H](CC1=CN(C=N1)S(=O)(=O)C1=CC=C(C)C=C1)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C34H39N5O7S
